US07442719B2
(iv) 3-{3-[(7-{Benzyl[(2R)-2-(2,2-dimethyl-4H-1,3-benzodioxin-6-yl)-2-hydroxyethyl]amino}heptyl)oxy]propyl}benzenesulfonamide
A mixture of (1R)-2-benzylamino)-1-(2,2-dimethyl-4H-1,3-benzodioxin-6-yl)ethanol (55.8 g), 3-{3-[(7-bromoheptyl)oxy]propyl}benzenesulfonamide (63.65 g), N,N-diisopropylethylamine (55 ml) and acetonitrile (200 ml) was stirred and heated under N2 at reflux for ca 21 h. The mixture was cooled to room temperature then diethyl ether (1000 ml) and water (500 ml) were added and the mixture stirred. The organic phase was washed with water (500 ml), then saturated brine (500 ml) and dried (Na2SO4). The solution was concentrated and the product purified by chromatography on flash silica gel (1000 g), eluting with petroleum ether:ethyl acetate (ratios ranging successively from 4:1 to 1:1) to give the title compound (97.7 g)—LC RT=1.54 min. δ (DMSO-d6)—7.75 (2H, m), 7.45 (1H, t, J 8 Hz), 7.4 (1H, m), 7.35 (2H, s), 7.25 (5H, m), 7.05 (1H, d, J 8.5 Hz), 7.0 (1H, s), 6.7 (1H, d, J 8.5 Hz), 4.9 (1H, br s), 4.78 (2H, s), 4.6 (1H, m), 3.65 (1H, d, J 13.8 Hz), 3.55 (1H, d, J 13.8 Hz), 3.4 (1H, br s), 3.3 (4H, m), 2.7 (2H, m), 2.55 (2H, m), 2.4 (2H, m), 1.85 (2H, m), 1.45 (8H, m), 1.35 (2H, m), 1.25 (2H, m), 1.15 (4H, m).

reactant | 1-(2,2-dimethyl-4H-1,3-benzodioxin-6-yl)ethanol | 55.8 g | CC1(OCC2=C(O1)C=CC(=C2)C(C)O)C | C12H16O3
reactant | 3-{3-[(7-bromoheptyl)oxy]propyl}benzenesulfonamide | 63.65 g | BrCCCCCCCOCCCC=1C=C(C=CC1)S(=O)(=O)N | C16H26BrNO3S
reactant | N,N-diisopropylethylamine | 55 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | acetonitrile | 200 ml | C(C)#N | C2H3N
reactant | diethyl ether | 1000 ml | C(C)OCC | C4H10O
solvent | water | 500 ml | O | H2O
product | 3-{3-[(7-{Benzyl[(2R)-2-(2,2-dimethyl-4H-1,3-benzodioxin-6-yl)-2-hydroxyethyl]amino}heptyl)oxy]propyl}benzenesulfonamide | 97.7 g | C(C1=CC=CC=C1)N(CCCCCCCOCCCC=1C=C(C=CC1)S(=O)(=O)N)C[C@H](O)C1=CC2=C(OC(OC2)(C)C)C=C1 | C35H48N2O6S
